US06248738B1
A suspension of 1-chloro-5-isoquinolinesulphonic acid (1.14 g, 4.68 mmol) in thionyl chloride (13 mL) and DMF (0.3 mL, 3.9 mmol) was heated to reflux for 3 h. Concentration in vacuo and azeotroping with toluene gave 1-chloro-5-chlorosulphonylisoquinoline as an off-white solid which was used immediately.

reactant | 1-chloro-5-isoquinolinesulphonic acid | 4.68 mmol, 1.14 g | ClC1=NC=CC=2C(=CC=CC12)S(=O)(=O)O | C9H6ClNO3S
reactant | DMF | 3.9 mmol, 0.3 mL | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 13 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-chloro-5-chlorosulphonylisoquinoline | ClC1=NC=CC2=C(C=CC=C12)S(=O)(=O)Cl | C9H5Cl2NO2S
